US09386769B2
1.0 g of 2,4-dimethyl-5-ethylaminomethylthiazole, 1.5 g of 2-chloro-3-nitro-6-methoxypyridine, 5.0 g of potassium carbonate, 20 mL of N,N-dimethylformamide (DMF) were added into a 150 mL of single-neck flask equipped with a magnetic stirrer. And the reaction mixture was stirred at room temperature overnight. And then extracted with ethyl acetate, the organic layer was separated while the aqueous layer was extracted with ethyl acetate twice. The organic phases were combined, and dried over anhydrous sodium sulfate after washed with an iced aqueous sodium chloride solution twice, then remove the solvent under reduced pressure to obtain 1.5 g of crude product which was purified by a silica gel column chromatography using a petroleum ether/ethyl acetate (20/1) as an eluent to obtain 0.49 g of 6-methoxy-N-(2,4-dimethylthiazole-5-yl)methyl)-N-ethyl-3-nitropyridine-2-amine, having the content of 98%, as a yellow viscous liquid, and solidified after standing. GC-MS (M+) (EI, 70 eV, m/z) calc: 322. found: 322. 1H NMR (CDCl3/TMS, 300 MHz) δ (ppm) 1.199 (t, J=7.2 Hz, 3H, CH3), 2.383 (s, 3H, CH3), 2.603 (s, 3H, CH3), 3.303 (q, J=7.2 Hz, 2H, CH2), 3.960 (s, 3H, CH3), 4.778 (s, 2H, CH3), 6.151 (d, J=8.7 Hz, 1H, Py H), 8.141 (d, J=9.0 Hz, 1H, Py H).

reactant | 2,4-dimethyl-5-ethylaminomethylthiazole | 1.0 g | CC=1SC(=C(N1)C)CNCC | C8H14N2S
reactant | 2-chloro-3-nitro-6-methoxypyridine | 1.5 g | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
reactant | potassium carbonate | 5.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | N-ethyl-3-nitropyridine-2-amine | C(C)NC1=NC=CC=C1[N+](=O)[O-] | C7H9N3O2
